US04666962
Octadecyl-3-[N,N-dibenzylaminoxy]propanoate
The procedure of Example I is repeated using 10.66 g of N,N-dibenzylhydroxylamine, 16.03 g of n-octadecyl acrylate, and 0.50 g of potassium-tert-butoxide in 100 ml of tetrahydrofuran, to afford the title compound as a colorless oil.

reactant | N,N-dibenzylhydroxylamine | 10.66 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | n-octadecyl acrylate | 16.03 g | C(C=C)(=O)OCCCCCCCCCCCCCCCCCC | C21H40O2
reactant | potassium-tert-butoxide | 0.50 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Octadecyl-3-[N,N-dibenzylaminoxy]propanoate | C(CCCCCCCCCCCCCCCCC)OC(CCON(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C35H55NO3
